US09145429B2
To a solution of 6-chloro-5-cyclopropyl-2-(4-oxopentyloxy)nicotinamide (298 mg, 1 mmol) in acetonitrile (20 mL) was added POCl3 (460 mg, 3 mmol) and pyridine (474 mg, 6 mmol). After stirred at r.t for 2 hrs, the mixture was poured into aq. NaHCO3, extracted with EtOAc. The separated organics was dried and concentrated in vacuo to afford 6-chloro-5-cyclopropyl-2-(4-oxopentyloxy)nicotinonitrile. (300 mg).

reactant | 6-chloro-5-cyclopropyl-2-(4-oxopentyloxy)nicotinamide | 1 mmol, 298 mg | ClC1=NC(=C(C(=O)N)C=C1C1CC1)OCCCC(C)=O | C14H17ClN2O3
reactant | POCl3 | 3 mmol, 460 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 6 mmol, 474 mg | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 6-chloro-5-cyclopropyl-2-(4-oxopentyloxy)nicotinonitrile | ClC1=NC(=C(C#N)C=C1C1CC1)OCCCC(C)=O | C14H15ClN2O2
